US04282245
To a mixture of 273 mg of 2-(10,11-dihydro-6-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide and 8 ml of ethanol was added 800 mg of potassium hydroxide in 2 ml of water, and the resulting mixture was refluxed with stirring for 6 hours. The solvent or ethanol was distilled off to obtain a residue, to which was added water, and the mixture was washed with benzene. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed by distillation to obtain a yellowish-brown oil, which was chromatographed over 9 g silica gel and eluted with chloroform to obtain light yellow crystals. The crystals were recrystallized from benzene-n-hexane to obtain 165 mg (yield: 60%) of 2-(10,11-dihydro-6-methoxy-11-oxodibenzo-[b,f]thiepin-2-yl)-propionic acid as light yellow crystals having a melting point of 176°-178° C.

reactant | 2-(10,11-dihydro-6-methoxy-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 273 mg | COC1=CC=CC=2CC(C3=C(SC21)C=CC(=C3)C(C(=O)N)C)=O | C18H17NO3S
reactant | ethanol | 8 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 800 mg | [OH-].[K+]
solvent | water | 2 ml | O | H2O
product | 2-(10,11-dihydro-6-methoxy-11-oxodibenzo-[b,f]thiepin-2-yl)-propionic acid | 165 mg, yield: 60% | COC1=CC=CC=2CC(C3=C(SC21)C=CC(=C3)C(C(=O)O)C)=O | C18H16O4S
